US06022895
5.2 g 6,7,8,9-tetrahydro-benzocyclohepten-5-one, 0.96 g paraformaldehyde and 10.0 g allyl-methylamine hydrochloride in 60 ml glacial acetic acid were reacted as in example 1, step 1. After analogous work-up, 6.7 g (84.8% of theoretical) 6-[(allyl-methyl-amino)-methyl]-6,7,8,9-tetrahydro-benzocyclohepten-5-one were obtained as a yellowish oil.

reactant | 6,7,8,9-tetrahydro-benzocyclohepten-5-one | 5.2 g | C1=CC=CC2=C1CCCCC2=O | C11H12O
reactant | paraformaldehyde | 0.96 g | C=O | CH2O
reactant | allyl-methylamine hydrochloride | 10.0 g | Cl.C(C=C)NC
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 6-[(allyl-methyl-amino)-methyl]-6,7,8,9-tetrahydro-benzocyclohepten-5-one | 6.7 g, 84.8% | C(C=C)N(C)CC1C(C2=C(CCC1)C=CC=C2)=O | C16H21NO
